US09193720B2
A 500-mL RB-flask was charged with solid 3,5-dibromo-2,6-dimethylpyridin-4-ol, hydrobromide (94 g, 260 mmol) and POCl3 (150 ml, 1609 mmol) was added. To this white slurry was added N,N-dimethylaniline (39.5 ml, 312 mmol) and the reaction mixture was heated to 130° C. (oil bath temp). After stirring for 2 h, the reaction mixture was cooled, concentrated and the brown residue taken up in toluene (100 mL) and concentrated to remove any unreacted POCl3. Then, the residue was treated with ice (250 g) for 30 min and carefully neutralized with powder Na2CO3, extracted with CH2Cl2 (3×250 mL). The combined organic layers dried (MgSO4/C), filtered, concentrated to give slurry which was dissolved in ether (500 mL), filtered through a plug of silica gel. The silica gel pad was washed with 1:1 Ether/Hex (1.5-lit). The filtrate was concentrated to give white slurry which was triturated with hexanes (200 mL) and left in the freezer (−10° C., 2 h). The liquid was decanted and solids were rinsed with cold hexanes (4×50 mL) and dried overnight under high vacuum (required to remove dimethylaniline) to afford 3,5-dibromo-4-chloro-2,6-dimethylpyridine (49.2 g, 164 mmol, 63.3% yield) as pale greenish-yellow solid. The decanted solvent was concentrated and purified by flash chromatography using 1-lit each hexanes, 0.5, 1, 2 and 5% EtOAc/Hex to afford additional 3,5-dibromo-4-chloro-2,6-dimethylpyridine (18.763 g, 62.7 mmol, 24.13% yield) as greenish-yellow solid. 1H NMR (500 MHz, CDCl3) δ 2.59 (s, 6H). LCMS (M+H)=300.0.

reactant | 3,5-dibromo-2,6-dimethylpyridin-4-ol, hydrobromide | 260 mmol, 94 g | Br.BrC=1C(=NC(=C(C1O)Br)C)C
reactant | POCl3 | 1609 mmol, 150 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 312 mmol, 39.5 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | ether | 500 mL | CCOCC | C4H10O
product | 3,5-dibromo-4-chloro-2,6-dimethylpyridine | 164 mmol, 49.2 g, 63.3% yield | BrC=1C(=NC(=C(C1Cl)Br)C)C | C7H6Br2ClN
